US08304419B2
Step E: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-methyl-2-(1-methylethyl)-1H-imidazole-5-carboxamide
HATU (103 mg, 0.27 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (56.2 mg, 0.18 mmol), 4-methyl-2-(1-methylethyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (54 mg, 0.18 mmol) and diisopropylethylamine (47 uL, 0.27 mmol) in DMF (1 mL). The reaction mixture was stirred at RT overnight and the solvent was removed under vacuum. The residue was dried in vacuo and the residue was treated with TFA (0.5 mL) in DCM (1.0 mL) at RT and stirred overnight. Neutralized with saturated NaHCO3 and extracted with 10% MeOH in DCM. The organic layer was dried over sodium sulfate and concentrated. The residue was purified by flash chromatography (0-5% 2M NH3 solution of MeOH in DCM) and HPLC to afford the title compound (50 mg, 60%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.68 (1H, br. s.) 7.56 (1H, br. s.) 7.31-7.40 (2H, m) 7.23 (1H, s) 7.14 (1H, d, J=1.3 Hz) 7.02 (1H, s) 4.62 (2H, d, J=6.4 Hz) 2.96 (1H, dt, J=13.7, 6.8 Hz) 2.56 (3H, s) 1.30 (6H, d, J=7.0 Hz). LCMS: m/z 461 (M+1).

reactant | HATU | 0.27 mmol, 103 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.18 mmol, 56.2 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 4-methyl-2-(1-methylethyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.18 mmol, 54 mg | CC=1N=C(N(C1C(=O)O)COCC[Si](C)(C)C)C(C)C | C14H26N2O3Si
reactant | diisopropylethylamine | 0.27 mmol, 47 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-methyl-2-(1-methylethyl)-1H-imidazole-5-carboxamide | 50 mg, 60% | ClC1=C(C(=C(C=C1)CNC(=O)C1=C(N=C(N1)C(C)C)C)F)OC1=CC(=CC(=C1)C#N)Cl | C22H19Cl2FN4O2
